US09226916B2
rac-[(3R,4S)-4-(3,4-Dichloro-phenyl)-1-(morpholine-4-carbonyl)-pyrrolidin-3-yl]-methyl-carbamic acid 4-fluoro-phenyl ester
In analogy to the procedure described for the synthesis of example 2 (step b), the title compound rac-[(3R,4S)-4-(3,4-dichloro-phenyl)-1-(morpholine-4-carbonyl)-pyrrolidin-3-yl]-methyl-carbamic acid 4-fluoro-phenyl ester was prepared from rac-[(3R,4S)-4-(3,4-Dichloro-phenyl)-pyrrolidin-3-yl]-methyl-carbamic acid 4-fluoro-phenyl ester instead of rac-{4-[(3S,4R)-3-(3,4-dichloro-phenyl)-4-methylamino-pyrrolidine-1-carbonyl]-piperidin-1-yl}-(1-methyl-cyclopropyl)-methanone using morpholin-4-carbonyl chloride instead of fluorophenyl chloroformate and was obtained as a colorless oil. MS m/e: 496.2 [M]+.

reactant | rac-[(3R,4S)-4-(3,4-Dichloro-phenyl)-pyrrolidin-3-yl]-methyl-carbamic acid 4-fluoro-phenyl ester | FC1=CC=C(C=C1)OC(N(C)[C@H]1CNC[C@@H]1C1=CC(=C(C=C1)Cl)Cl)=O | C18H17Cl2FN2O2
reactant | morpholin-4-carbonyl chloride | N1(CCOCC1)C(=O)Cl | C5H8ClNO2
product | rac-[(3R,4S)-4-(3,4-dichloro-phenyl)-1-(morpholine-4-carbonyl)-pyrrolidin-3-yl]-methyl-carbamic acid 4-fluoro-phenyl ester | FC1=CC=C(C=C1)OC(N(C)[C@H]1CN(C[C@@H]1C1=CC(=C(C=C1)Cl)Cl)C(=O)N1CCOCC1)=O | C23H24Cl2FN3O4
